US07795236B2
2-Nitrobiphenyl-4-carbaldehyde
4-Bromo-3-nitrobenzaldehyde (2.0 g) was suspended in N,N-dimethylformamide (30 mL), phenylboronic acid (1.3 g), sodium carbonate (1.8 g), water (6 mL) and tetrakis-(triphenylphosphine)palladium(0) (1.0 g) were added, and the resulting mixture was stirred at 90° C. for 17 hours. The reaction mixture was cooled to room temperature and then partitioned between ethyl acetate (100 mL) and water (100 mL). The organic layer was washed successively with water (50 mL) and brine (50 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=2/1) to give the title compound (1.6 g).

reactant | 4-Bromo-3-nitrobenzaldehyde | 2.0 g | BrC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4BrNO3
reactant | phenylboronic acid | 1.3 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 1.8 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 6 mL | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2-Nitrobiphenyl-4-carbaldehyde | 1.6 g | [N+](=O)([O-])C1=C(C=CC(=C1)C=O)C1=CC=CC=C1 | C13H9NO3
